US04912115
2-[N-Methyl-N-(2-(6,7-dimethoxy-isoquinolin-4-yl)-ethyl)-3-amino-propyl]-5,6-dimethyl-phthalimide
Prepared from 2-(2-formyl-ethyl)-5,6-dimethyl-phthalimide and 4-(2-methylamino-ethyl)-6,7-dimethoxy-isoquinoline analogously to Example 4.

reactant | 2-(2-formyl-ethyl)-5,6-dimethyl-phthalimide | C(=O)CCC12C(C(=O)NC1=O)C(=C(C=C2)C)C | C13H15NO3
reactant | 4-(2-methylamino-ethyl)-6,7-dimethoxy-isoquinoline | CNCCC1=CN=CC2=CC(=C(C=C12)OC)OC | C14H18N2O2
product | 2-[N-Methyl-N-(2-(6,7-dimethoxy-isoquinolin-4-yl)-ethyl)-3-amino-propyl]-5,6-dimethyl-phthalimide | CN(CCCC12C(C(=O)NC1=O)C(=C(C=C2)C)C)CCC2=CN=CC1=CC(=C(C=C21)OC)OC | C27H33N3O4
